US08835099B2
Vinylphosphonic Acid/Methacrylic Acid Copolymer (Molar Ratio of 2:8) (C-3)
In a 10 liter flask equipped with a stirrer, a capacitor and a dropping device, 3,500 g of ethyl acetate was charged and heated to 70° C. Then, 390 g (3.61 mol) of a vinylphosphonic acid monomer, 1,243 g (14.44 mol) of methacrylic acid and 52 g of AIBN were dissolved in 1,000 g of ethyl acetate and the obtained solution was added dropwise in a reactor over 4 hours. During the dropwise addition of a monomer solution, a white precipitate was produced. After heating and stirring for 2 hours while maintaining at 70° C., heating was stopped and the reaction solution was cooled to room temperature. The precipitate thus produced was collected by filtration under reduced pressure and then washed with 1,000 g of ethyl acetate. The precipitate was vacuum-dried at 40° C. for 24 hours to obtain a white fine crystal. Yield: 1,550 g

reactant | vinylphosphonic acid | 3.61 mol, 390 g | C(=C)P(O)(O)=O | C2H5O3P
reactant | methacrylic acid | 14.44 mol, 1,243 g | C(C(=C)C)(=O)O | C4H6O2
reactant | AIBN | 52 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | ethyl acetate | 1,000 g | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 3,500 g | C(C)(=O)OCC | C4H8O2
product | Vinylphosphonic Acid Methacrylic Acid | C(=C)P(O)(O)=O.C(C(=C)C)(=O)O | InChI=1S/C4H6O2.C2H5O3P/c1-3(2)4(5)6;1-2-6(3,4)5/h1H2,2H3,(H,5,6);2H,1H2,(H2,3,4,5)
